US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-pyrazol-1-yl-2-trifluoromethyl-benzylamide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-[4-(1H-pyrazol-1-yl)-2-(trifluoromethyl)benzyl]-1-piperidinecarboxamide (0.18 g, 0.20 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.09 g, 0.13 mmol)

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-[4-(1H-pyrazol-1-yl)-2-(trifluoromethyl)benzyl]-1-piperidinecarboxamide | 0.20 mmol, 0.18 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCC3=C(C=C(C=C3)N3N=CC=C3)C(F)(F)F)C=C2)O)C=C1 | C50H57F3N6O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-pyrazol-1-yl-2-trifluoromethyl-benzylamide | 0.13 mmol, 0.09 g | N1(N=CC=C1)C1=CC(=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C1)C(F)(F)F | C34H39F3N6O4
